US07741341B2
(ii) 4-(4-Amino-phenyl)-3-oxo-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 464 mg 1-(4-Amino-phenyl)-piperazin-2-one and 30 mg DMAP in 15 mL acetonitrile, 794 mg Di-tert-butyldicarbonate were added at RT. After 2 h the solvents were removed under reduced pressure and the residue was taken-up in 200 mL ethyl acetate. The organic phase was washed with water and brine, dried over Na2SO4 and the solvent was removed under reduced pressure.

reactant | 1-(4-Amino-phenyl)-piperazin-2-one | 464 mg | NC1=CC=C(C=C1)N1C(CNCC1)=O | C10H13N3O
reactant | Di-tert-butyldicarbonate | 794 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 30 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 4-(4-Amino-phenyl)-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=C(C=C1)N)=O | C15H21N3O3
